US07078432B2
a) 13-Keto-baccatin III
Baccatin III (150 g, 0.25 mol) was dissolved in acetone (1.43 L). Commercially available manganese dioxide (450 g) was added in three portions under strong stirring. After the starting product disappeared (4 h) the suspension was filtered and the solvent evaporated off. The crude was suspended in AcOEt (100 ml) and refluxed for 1 h, then c-Hexane (100 ml) was added. The title compound was obtained from mother liquors, after evaporation of the solvent, as a white solid (140 g, 95%).

reactant | Baccatin III | 0.25 mol, 150 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
solvent | acetone | 1.43 L | CC(=O)C | C3H6O
catalyst | manganese dioxide | 450 g | [O-2].[O-2].[Mn+4]
product | 13-Keto-baccatin | CC1=C2C(C(=O)[C@H]3[C@@H]([C@@H]4COC4CC3O)[C@@H]([C@@](C2(C)C)(CC1=O)O)OC(=O)C5=CC=CC=C5)OC(=O)C | C28H32O9
